* Circuit - Push-Pull
* Course: Circuitos Eletrônicos I - Prova Final

* 1. Voltage sources
V1 in 0 0
V2 cc 0 5
V3 ee 0 -5

* 2. Components
Q1 cc N001 N002 NPN_PROVA
Q2 ee N001 N002 PNP_PROVA

R1 N001 in 10k
R2 0 N002 1k

* 3. Transistor Model Definitions (approx. 0.7V forward drop)
.model NPN_PROVA NPN(IS=1e-16 BF=100 VAF=100 IKF=1e9)
.model PNP_PROVA PNP(IS=1e-16 BF=100 VAF=100 IKF=1e9)

.end